US04845210
Cis-3-[(R)-1-hydroxyethyl]-4-trimethylsilylethynyl-2-azetidinone (0.8 g) is dissolved in dry tetrahydrofuran (15 ml) in an argon stream, and the solution is cooled to -70° C. followed by dropwise addition of n-butyllithium (1.6M)-hexane (4.8 ml) while carefully maintaining the temperature so as not to exceed -65° C. To the mixture is added dropwise a solution of tert-butyldimethylsilyl chloride (0.86 g) in dry tetrahydrofuran (5 ml) at -70° C. or lower, and the resulting mixture is stirred at the same temperature for an hour and then poured into a mixture of ethyl acetate (100 ml) and water (100 ml). The organic layer is separated, washed with aqueous sodium chloride and dried over magnesium sulfate. The solvent is then distilled off under reduced pressure and the residue is subjected to silica gel column chromatography (eluent: 1:9 ethyl acetate-n-hexane mixture) to give 0.40 g of cis-1-(tert-butyldimethylsilyl)-3-[(R)-1-hydroxyethyl]-4-trimethylsilylethynyl-2-azetidinone.

reactant | Cis-3-[(R)-1-hydroxyethyl]-4-trimethylsilylethynyl-2-azetidinone | 0.8 g | O[C@H](C)[C@@H]1C(N[C@@H]1C#C[Si](C)(C)C)=O | C10H17NO2Si
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | hexane | 4.8 ml | CCCCCC | C6H14
reactant | tert-butyldimethylsilyl chloride | 0.86 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | cis-1-(tert-butyldimethylsilyl)-3-[(R)-1-hydroxyethyl]-4-trimethylsilylethynyl-2-azetidinone | 0.40 g | [Si](C)(C)(C(C)(C)C)N1C([C@H]([C@H]1C#C[Si](C)(C)C)[C@@H](C)O)=O | C16H31NO2Si2
